US05650428
The procedure described in Example 180 was repeated, except that (S)-2-(4-bromobenzenesulfonylamino)-4-ethylthiobutanoic acid (199 mg) and ethyl 4-aminophenylacetate (95.7 mg) were condensed in dichloromethane (2 ml) in the presence of N,N'-dicyclohexylcarbodiimide (139.1 mg). The reaction mixture was filtered, and the filtrate was concentrated. The resulting crude product was recrystallized from ethanol to obtain (S)-2-(4-bromobenzenesulfonylamino)-N-(4-(ethoxycarbonylmethyl)phenyl)-4-ethylthiobutanamide (117.3 mg).

reactant | (S)-2-(4-bromobenzenesulfonylamino)-4-ethylthiobutanoic acid | 199 mg | BrC1=CC=C(C=C1)S(=O)(=O)N[C@H](C(=S)O)CCCC | C12H16BrNO3S2
reactant | ethyl 4-aminophenylacetate | 95.7 mg | NC1=CC=C(C=C1)CC(=O)OCC | C10H13NO2
reactant | N,N'-dicyclohexylcarbodiimide | 139.1 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | (S)-2-(4-bromobenzenesulfonylamino)-N-(4-(ethoxycarbonylmethyl)phenyl)-4-ethylthiobutanamide | 117.3 mg | BrC1=CC=C(C=C1)S(=O)(=O)N[C@H](C(=S)NC1=CC=C(C=C1)CC(=O)OCC)CCCC | C22H27BrN2O4S2
